US05559113
p-Nitrophenyl trans-3-(1H-imidazol-4-yl)-2-propenoate
2 ml (27.5 mmol) of freshly distilled thionyl chloride are added to a finely ground mixture of 1.51 g (10.8 mmol) of p-nitrophenol and 1.5 g (10.8 mmol) of trans-urocanic acid in a round-bottomed flask equipped with a drying tube containing CaCl2. The mixture is progressively brought to 140° C. After 4 h, the mixture is slowly cooled to room temperature. A brown powder is extracted with CHCl3 /MeOH (150 ml, 2:1) while heating. The undissolved material is separated by filtration and the filtrate is treated with active charcoal. Concentration is carried out under vacuum and diethyl ether is added so as to induce precipitation of a solid (1.96 g; overall crude yield: 61%). The latter is recrystallized from MeOH and the product is washed with diethyl ether in order to remove any trace of p-nitrophenol, giving a crystalline white solid, M.p. 220°-222° C.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | p-nitrophenol | 10.8 mmol, 1.51 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | trans-urocanic acid | 10.8 mmol, 1.5 g | C1=C(NC=N1)/C=C/C(=O)O | C6H6N2O2
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
product | p-Nitrophenyl trans-3-(1H-imidazol-4-yl)-2-propenoate | N1C=NC(=C1)/C=C/C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H9N3O4
